US05811433
k. 7,8Dichloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylic acid
14.6 g (0.045 mol) of ethyl 7,8-dichloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate are heated at reflux in a mixture of 59 ml of acetic acid, 59 ml of water and 5.9 ml of concentrated sulphuric acid for two hours. The cooled mixture is put into ice-water, and the product is isolated and washed with water.

reactant | ethyl 7,8-dichloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | 0.045 mol, 14.6 g | ClC1=NC=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)OCC)=O | C14H12Cl2N2O3
reactant | water | 59 ml | O | H2O
reactant | sulphuric acid | 5.9 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 59 ml | C(C)(=O)O | C2H4O2
product | 7,8Dichloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylic acid | ClC1=NC=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)O)=O | C12H8Cl2N2O3
